US04198418
Samples of 10,11-dihydro-11-oxospiro[dibenz(b,f)oxepin-10,4'-piperidine], free base of Example 3, are separately treated with phenoxypropyl bromide and 2-bromoethylbenzene according to the procedure of Example 12, to provide colorless prisms, mp 213°-215° C., (dec), of 10,11-dihydro-11-oxo-1'-(3-phenoxypropyl)-spiro[dibenz(b,f)oxepin-10,4'-piperidine]hydrobromide (from an ethyl alcohol-ether mixture), Example 13, and colorless prisms, mp>300° C., of 10,11-dihydro-11-oxo-1'-phenethylspiro[dibenz(b,f)-oxepin-10,4'-piperidine]hydrobromide (from an acetone-ether mixture), Example 14, respectively.

reactant | 10,11-dihydro-11-oxospiro[dibenz(b,f)oxepin-10,4'-piperidine] | O=C1C2=C(OC3=C(C=CC=C3)C13CCNCC3)C=CC=C2 | C18H17NO2
reactant | phenoxypropyl bromide | O(C1=CC=CC=C1)CCCBr | C9H11BrO
reactant | 2-bromoethylbenzene | BrCCC1=CC=CC=C1 | C8H9Br
product | 10,11-dihydro-11-oxo-1'-(3-phenoxypropyl)-spiro[dibenz(b,f)oxepin-10,4'-piperidine]hydrobromide | Br.O=C1C2=C(OC3=C(C=CC=C3)C13CCN(CC3)CCCOC3=CC=CC=C3)C=CC=C2 | InChI=1S/C27H27NO3.BrH/c29-26-22-11-4-6-13-24(22)31-25-14-7-5-12-23(25)27(26)15-18-28(19-16-27)17-8-20-30-21-9-2-1-3-10-21;/h1-7,9-14H,8,15-20H2;1H
